US07683176B2
4-Chloro-N-{5-chloro-2-[4-(5-fluoro-2-methoxy-phenyl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide
The title compound was prepared according to general Method B using 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.234 mmol), trimethylorthoformate (80 mg, 0.60 mmol), acetonitrile (2 mL), 2-methoxyl-5-fluoroaniline (70 mg, 0.50 mmol) and acetic acid (1.0 mL). MS (ES) [M+H]+ expected 562.0, found 562.0.

reactant | 4-Chloro-N-(5-chloro-2-hydrazinocarbonyl-pyridin-3-yl)-3-trifluoromethyl-benzenesulfonamide | 0.234 mmol, 100 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)NN)C(F)(F)F | C13H9Cl2F3N4O3S
reactant | trimethylorthoformate | 0.60 mmol, 80 mg | COC(OC)OC | C4H10O3
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
reactant | 2-methoxyl-5-fluoroaniline | 0.50 mmol, 70 mg | O(C)C1=C(N)C=C(C=C1)F | C7H8FNO
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-Chloro-N-{5-chloro-2-[4-(5-fluoro-2-methoxy-phenyl)-4H-[1,2,4]triazol-3-yl]-pyridin-3-yl}-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NN=CN1C1=C(C=CC(=C1)F)OC)C(F)(F)F | C21H13Cl2F4N5O3S
